US07985764B2
A 500 mg portion of ethyl 2,3-dimethyl-1H-indole-5-carboxylate was dissolved in 24 ml of toluene, and 0.39 ml of 3-thienylmethanol and 1.00 g of cynomethylene tri-N-butylphospholan were added at room temperature, followed by overnight stirring at 110° C. A 0.39 ml portion of 3-thienylmethanol and 1.00 g of cyanomethylene tri-N-butylphospholan were added to the reaction liquid, followed by stirring at 110° C. for 8 hours. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:20 to 1:10) to obtain 378 mg of ethyl 2,3-dimethyl-1-(3-thienylmethyl)-1H-indole-5-carboxylate as a yellow solid.

reactant | ethyl 2,3-dimethyl-1H-indole-5-carboxylate | CC=1NC2=CC=C(C=C2C1C)C(=O)OCC | C13H15NO2
reactant | 3-thienylmethanol | 0.39 ml | S1C=C(C=C1)CO | C5H6OS
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2,3-dimethyl-1-(3-thienylmethyl)-1H-indole-5-carboxylate | 378 mg | CC=1N(C2=CC=C(C=C2C1C)C(=O)OCC)CC1=CSC=C1 | C18H19NO2S
